US05965553
Trans-7-chloro-5-(1 -naphthyl)-1-(2,2-dimethyl-3-dimethylaminopropyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid
Ethyl trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2- oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (212 mg, 0.41 mmol) and potassium carbonate (112 mg, 0.83 mmol) were stirred in a mixture of MeOH (8 ml) and water (2.5 ml) for 18 hours at 60° C. The mixture was cooled to room temperature, acidified to pH 2 with 2N HCl and extracted several times with ethyl acetate. The combined organic layers were dried with MgSO4. The filtrate was concentrated under reduced pressure to give the title compound (156 mg, 76%).

reactant | Ethyl trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2- oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 0.41 mmol, 212 mg | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CN(C)C)(C)C)=O)CC(=O)OCC)C2=CC=CC3=CC=CC=C23)C1 | C30H35ClN2O4
reactant | potassium carbonate | 0.83 mmol, 112 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 8 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | Trans-7-chloro-5-(1 -naphthyl)-1-(2,2-dimethyl-3-dimethylaminopropyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 156 mg, 76% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CN(C)C)(C)C)=O)CC(=O)O)C2=CC=CC3=CC=CC=C23)C1 | C28H31ClN2O4
